US06969749B2
Preparation of 2-(2-bromo-2-methyl propionylamino)-2-methyl-propionic acid
A stirring mixture of 2-aminoisobutyric acid (28.5 g, 0.28 mol), sodium hydroxide (11.1 g, 0.28 mol), 115 mL of water, and 30 mL of chloroform was cooled to −10° C. and stirred vigorously while a solution of 2-bromisobutyryl bromide (57.0 g, 0.25 mol) in 85 mL of chloroform was added dropwise. When addition was complete, the reaction flask was removed from the cold bath and allowed to warm to room temperature. The mixture stirred for 15 hours. Concentrated HCl (10 mL) was then added to the mixture and stirring was continued for another 30 minutes. A white solid (32.0 g) was filtered off, and the aqueous and organic phases of the filtrate were separated. The organic phase was dried over magnesium sulfate, filtered, and evaporated at reduce pressure to leave a white solid (21.0 g). The two solid portions were combined and recrystallized from toluene to afford 27.1 g (43%) of the title compound as a white solid with IR and NMR spectra consistent with the desired product.

reactant | 2-aminoisobutyric acid | 0.28 mol, 28.5 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | sodium hydroxide | 0.28 mol, 11.1 g | [OH-].[Na+]
reactant | water | 115 mL | O | H2O
reactant | 2-bromisobutyryl bromide | 0.25 mol, 57.0 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | chloroform | 85 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-bromo-2-methyl propionylamino)-2-methyl-propionic acid | 21.0 g | BrC(C(=O)NC(C(=O)O)(C)C)(C)C | C8H14BrNO3
